US06956050B2
STEP 8. N-[({2-[4-(2-ethyl-4,5,6,7-tetrahydro-1H-benzimidazol-1-yl)phenyl]ethyl}amino)carbonyl]-4-methylbenzenesulfonamide
A mixture of 2-Ethyl-1-(4-{2-[({[(4-methylphenyl)sulfonyl]amino}carbonyl) amino]ethyl}phenyl)-1H-benzimidazole (100 mg, 0.20 mmol) and platinum (IV) oxide (22 mg, 0.096 mmol) in 2 M HCl (10 mL) and CH3OH (2 mL) was stirred for 8 h under hydrogen atmosphere (3 kgf/cm2). The mixture was filtered through a pad of Celite and the filtrate was concentrated. The crude product was purified by TLC with ethyl acetate/ethanol (10:1) to afford 18 mg (14%) of the title compound as colorless solid: MS (ESI) m/z 467 [M+H]+, 465 [M−H]−, 1H-NMR (CDCl3)δ1.15 (3H, t, J=7.6 Hz), 1.78 (2H, br), 2.26 (2H, br), 2.41 (3H, s), 2.55 (2H, q, J=7.6 Hz), 2.65 (2H, br), 2.83 (2H, br), 2.86 (2H, m), 3.49 (2H, m), 6.71 (1H, br), 7.10 (2H, d, J=8.4 Hz), 7.28 (4H, m), 7.79 (2H, d, J=8.2 Hz).

reactant | 2-Ethyl-1-(4-{2-[({[(4-methylphenyl)sulfonyl]amino}carbonyl) amino]ethyl}phenyl)-1H-benzimidazole | 0.20 mmol, 100 mg | C(C)C1=NC2=C(N1C1=CC=C(C=C1)CCNC(=O)NS(=O)(=O)C1=CC=C(C=C1)C)C=CC=C2 | C25H26N4O3S
solvent | HCl | 2 M, 10 mL | Cl | ClH
solvent | CH3OH | 2 mL | CO | CH4O
catalyst | platinum (IV) oxide | 0.096 mmol, 22 mg | [Pt](=O)=O
product | N-[({2-[4-(2-ethyl-4,5,6,7-tetrahydro-1H-benzimidazol-1-yl)phenyl]ethyl}amino)carbonyl]-4-methylbenzenesulfonamide | 18 mg, 14% | C(C)C1=NC2=C(N1C1=CC=C(C=C1)CCNC(=O)NS(=O)(=O)C1=CC=C(C=C1)C)CCCC2 | C25H30N4O3S
